US06313116B1
2-Ethyl-4-methoxybenzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide
To a suspension of 2-ethyl-4-methoxybenzothiazole-7-carboxylic acid (0.1 g) in dichloromethane (10 ml) was added oxalyl chloride (1.0 ml) and dimethylformamide (1 drop). The reaction was stirred at room temperature for 16 hrs, and then the solvent was removed in vacuo to yield a brown solid residue. 5-Amino-1-methyl-1H-pyrazole-4-carbonitrile (0.1 g) was taken up in dichloromethane (10 ml) and sodium hexamethyldisilylamine (1.0M in tetrahydrofuran, 0.84 ml) was added. After 5 minutes the acid chloride was added and the reaction stirred at room temperature for 16 hrs. The solvent was removed in vacuo and the product purified by flash chromatography (eluent 50% ethyl acetatethexane-75% ethyl acetate/hexane) to yield the title compound as an off-white solid (0.088 g). TLC Rf 0.13 (50% ethyl acetate/hexane); Mpt 190-191° C.

reactant | 2-ethyl-4-methoxybenzothiazole-7-carboxylic acid | 0.1 g | C(C)C=1SC2=C(N1)C(=CC=C2C(=O)O)OC | C11H11NO3S
reactant | oxalyl chloride | 1.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-Amino-1-methyl-1H-pyrazole-4-carbonitrile | 0.1 g | NC1=C(C=NN1C)C#N | C5H6N4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Ethyl-4-methoxybenzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide | 0.088 g | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(SC21)CC)OC | C16H15N5O2S
